US04570001
1-Crotyl-1-phenyl-2-(3-sulfamoyl-4-chlorobenzoyl) hydrazine
In a 250 ml round bottomed flask is placed 90 ml of N,N-dimethylformamide and 30 grams (0.092 mole) of 3-amino sulfonyl-4-chlorobenzhydrazide. The mixture was stirred to dissolve the solid, then 18.63 gms (0.138 mole) of crotyl bromide were added. The mixture was heated at 100° for 1.66 hours at which point TLC showed the reaction to be complete. The reaction mixture was cooled and diluted with 200 ml isopropanol. This solution was dripped into a slurry of 1.5 liters of ice and 4 liters of water. The solid which precipitated was collected, washed with water and air dried overnight, yielding the product which could be recrystallized from chloroform/carbon tetrachloride.

reactant | N,N-dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
reactant | 3-amino sulfonyl-4-chlorobenzhydrazide | 0.092 mole, 30 grams | NS(=O)(=O)C=1C=C(C(=O)NN)C=CC1Cl | C7H8ClN3O3S
reactant | crotyl bromide | 0.138 mole, 18.63 gms | C(C=CC)Br | C4H7Br
reactant | water | 4 liters | O | H2O
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 1-Crotyl-1-phenyl-2-(3-sulfamoyl-4-chlorobenzoyl) hydrazine | C(C=CC)N(NC(C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=O)C1=CC=CC=C1 | C17H18ClN3O3S
